US06919332B2
To a mixture of 4-(4-Methoxy-phenoxy)-2-methyl-benzoic acid methyl ester (2.8 grams, 10.3 mmol), N-bromosuccinimide (2.14 grams, 12 mmol) and carbon tetrachloride (12 mL) was added a crystal of benzoyl peroxide. The mixture was heated to reflux for 2 hours, and an additional 2.1 grams of N-bromosuccinimide was added. After refluxing for an additional 4 hours, the mixture was cooled to room temperature, diluted with ether, and the organic phase was washed with water, dried over magnesium sulfate, filtered and concentrated, affording 3 grams of 2-Bromomethyl-4-(4-methoxy-phenoxy)-benzoic acid methyl ester as a colorless oil. 1H NMR (CDCl3, 500 MHz): δ 7.96 (d, 1H, J=8.8 Hz), 7.05-6.90 (m, 6H), 6.87 (dd, 1H, J=2.6, 8.3 Hz), 4.92 (s, 2H), 3.93 (s, 3H), 3.85(s, 3H) ppm.

reactant | 4-(4-Methoxy-phenoxy)-2-methyl-benzoic acid methyl ester | 10.3 mmol, 2.8 grams | COC(C1=C(C=C(C=C1)OC1=CC=C(C=C1)OC)C)=O | C16H16O4
reactant | N-bromosuccinimide | 12 mmol, 2.14 grams | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | carbon tetrachloride | 12 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-bromosuccinimide | 2.1 grams | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | ether | CCOCC | C4H10O
product | 2-Bromomethyl-4-(4-methoxy-phenoxy)-benzoic acid methyl ester | 3 grams | COC(C1=C(C=C(C=C1)OC1=CC=C(C=C1)OC)CBr)=O | C16H15BrO4
